US06686352B2
a) 10-Chloro-2-(1,1-dimethylethyl)-5,7-dihydro-6H-pyrimido[5,4-d][1]benzazepin-6-one
Analogous to Scheme 1, from 7-chloro-4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione and 2,2-dimethylpropionamidine hydrochloride. Yield: 88%. Off-white solid, m/z (ISP) 302 (MH)

reactant | 7-chloro-4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione | ClC=1C=CC2=C(C(C(CC(N2)=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | 2,2-dimethylpropionamidine hydrochloride | Cl.CC(C(=N)N)(C)C
product | 10-Chloro-2-(1,1-dimethylethyl)-5,7-dihydro-6H-pyrimido[5,4-d][1]benzazepin-6-one | Yield: 88% | ClC=1C=CC2=C(C3=C(CC(N2)=O)C=NC(=N3)C(C)(C)C)C1 | C16H16ClN3O
